datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=O)COc1ccc(Cc2ccc([O-:10])c(C[NH3+])c2)c(Cl)c1Cl.Oc1ccc2c3ccccc3c[n+:21]([H:20])c2c1>>CCOC(=O)COc1ccc(Cc2ccc([O:10][H:20])c(C[NH3+])c2)c(Cl)c1Cl.Oc1ccc2c3ccccc3c[n:21]c2c1 10=20;20,21=21",
"Cc1cc(C#N)cc(C)c1[O:21][H:20].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[nH+]4)[nH+]3)[n:10]2)c[nH+]1>>Cc1cc(C#N)cc(C)c1[O-:21].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[nH+]4)[nH+]3)[n+:10]2[H:20])c[nH+]1 10=20;20,21=21",
"CC(C)C([NH2+]c1ccccc1)C(=O)[O-:10].[NH3+]c1cccc(-c2sc3ccccc3[n+:21]2[H:20])c1>>CC(C)C([NH2+]c1ccccc1)C(=O)[O:10][H:20].[NH3+]c1cccc(-c2sc3ccccc3[n:21]2)c1 10=20;20,21=21",
"O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O:21][H:20].O=C(Cc1[nH]c2ccccc2[nH+]1)[O-:10]>>O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O-:21].O=C(Cc1[nH]c2ccccc2[nH+]1)[O:10][H:20] 10=20;20,21=21",
"COCc1nc2c(n1C)C(=O)c1nc[n+:21]([H:20])c([O-])c1C2=O.Cn1ccc2ccc3ccc[n:10]c3c21>>COCc1nc2c(n1C)C(=O)c1nc[n:21]c([O-])c1C2=O.Cn1ccc2ccc3ccc[n+:10]([H:20])c3c21 10=20;20,21=21",
"N#CC1=C(c2nc3cc(Cl)ccc3o2)C(=O)Oc2cc([O-:10])ccc21.O=[N+]([O-])c1ccc2[nH]c(-c3cccs3)[n+:21]([H:20])c2c1>>N#CC1=C(c2nc3cc(Cl)ccc3o2)C(=O)Oc2cc([O:10][H:20])ccc21.O=[N+]([O-])c1ccc2[nH]c(-c3cccs3)[n:21]c2c1 10=20;20,21=21",
"CCN(CC)[N:10](CC)CC.C[n+]1c(N[NH2+:21][H:20])ccc2ccccc21>>CCN(CC)[N+:10](CC)(CC)[H:20].C[n+]1c(N[NH2:21])ccc2ccccc21 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1>>COC(=O)CSC(C)[O:10][H:20].COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1 10=20;20,21=21",
"Cc1cc(C)c([O-:10])cc1C(C)C.O=[N+]([O-])c1ccc2[nH][n+:21]([H:20])cc2c1>>Cc1cc(C)c([O:10][H:20])cc1C(C)C.O=[N+]([O-])c1ccc2[nH][n:21]cc2c1 10=20;20,21=21",
"O=C1NC(Cc2ccccc2)C(=O)[N:21]1[H:20].[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2:10]>>O=C1NC(Cc2ccccc2)C(=O)[N-:21]1.[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C#N)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C#N)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.Oc1ccc([NH+:21](Cc2ccccc2)[H:20])cc1>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.Oc1ccc([NH:21]Cc2ccccc2)cc1 10=20;20,21=21",
"OC(c1ccc(Cl)cc1)[NH+:21](c1ccccc1)[H:20].O[Se](c1ccccc1)=[O:10]>>OC(c1ccc(Cl)cc1)[NH:21]c1ccccc1.O[Se](c1ccccc1)=[O+:10][H:20] 10=20;20,21=21",
"Nc1cc[nH+]c([S-])[n+:21]1[H:20].O=C1NC(=O)[C@H](CSSC[C@@H]2NC(=O)[N-:10]C2=O)N1>>Nc1cc[nH+]c([S-])[n:21]1.O=C1NC(=O)[C@H](CSSC[C@@H]2NC(=O)[N:10]([H:20])C2=O)N1 10=20;20,21=21",
"CCCCCCCCCCCCCC[N:10](CC(O)CC)CC(O)CC.Nc1cc[n+:21]([H:20])c2cc(Cl)ccc12>>CCCCCCCCCCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].Nc1cc[n:21]c2cc(Cl)ccc12 10=20;20,21=21",
"Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([Se-])[n:10]1.c1ccc(-c2c[nH]c[n+:21]2[H:20])cc1>>Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([Se-])[n+:10]1[H:20].c1ccc(-c2c[nH]c[n:21]2)cc1 10=20;20,21=21",
"CCN(CC)c1nc(N)[n+:21]([H:20])c(N(CC)CC)n1.Nc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12>>CCN(CC)c1nc(N)[n:21]c(N(CC)CC)n1.Nc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CCN(CC)C(=O)C[NH+:21](CC)[H:20].O=C([O-])C1Cc2[nH]c[n:10]c2C[NH2+]1>>CCN(CC)C(=O)C[NH:21]CC.O=C([O-])C1Cc2[nH]c[n+:10]([H:20])c2C[NH2+]1 10=20;20,21=21",
"C[NH:10]CCCNC(=O)/C=N/[O-].O=[N+]([O-])c1cccc(/C=C/C=N/[O:21][H:20])c1>>C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20].O=[N+]([O-])c1cccc(/C=C/C=N/[O-:21])c1 10=20;20,21=21",
"C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O-:10].CCCC[NH2+]CC(=O)[O:21][H:20]>>C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O:10][H:20].CCCC[NH2+]CC(=O)[O-:21] 10=20;20,21=21",
"Cc1cc(Cl)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Cl)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].CC[N:10]1[C@@H](C)[C@@H]1C>>CCCCCCCC[N:21](CC(O)CC)CC(O)CC.CC[N+:10]1([H:20])[C@@H](C)[C@@H]1C 10=20;20,21=21",
"Brc1ccc([O:21][H:20])c(Br)c1.CCCC[N:10](CCCC)CCCC>>Brc1ccc([O-:21])c(Br)c1.CCCC[N+:10](CCCC)(CCCC)[H:20] 10=20;20,21=21",
"CCC(CC(C)C)O[O-:10].CCCCCCCCCC[NH+:21](c1ccccc1)[H:20]>>CCC(CC(C)C)O[O:10][H:20].CCCCCCCCCC[NH:21]c1ccccc1 10=20;20,21=21",
"CC1(C)CCC(=O)N1[O:21][H:20].Cc1cc(C)cc(C(c2ccccc2)=[NH:10])c1>>CC1(C)CCC(=O)N1[O-:21].Cc1cc(C)cc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(Cc1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)N(Cc1ccccc1[O-:10])C(C)C.C[N+:21](C)(CC(=O)[O-])[H:20]>>CC(C)N(Cc1ccccc1[O:10][H:20])C(C)C.C[N:21](C)CC(=O)[O-] 10=20;20,21=21",
"C[N:10](C)CCCC(=O)Oc1cccc([N+](=O)[O-])c1.O=C([O-])/C(=N\[O:21][H:20])c1ccccc1>>C[N+:10](C)(CCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20].O=C([O-])/C(=N\[O-:21])c1ccccc1 10=20;20,21=21",
"C[N:10]1CCOCC1.Oc1c(Cl)cc(Cl)c2ccc[n+:21]([H:20])c12>>C[N+:10]1([H:20])CCOCC1.Oc1c(Cl)cc(Cl)c2ccc[n:21]c12 10=20;20,21=21",
